US07291642B2
1b) 3-[(2,3-Dichlorobenzenesulphonyl)methylamino]propionic acid
For two hours, a solution of 430 mg (1.17 mmol) of tert.-butyl 3-[(2,3-dichlorobenzenesulphonyl)methylamino]propionate and 2.0 ml of trifluoroacetic acid in 30 ml of tetrahydrofuran was stirred at room temperature and then evaporated to dryness. About 30 ml of water were added to the residue and the mixture was extracted three times with in each case 20 ml of ethyl acetate. The organic extracts were washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated to dryness. The product obtained in this manner was reacted further without additional purification.

reactant | tert.-butyl 3-[(2,3-dichlorobenzenesulphonyl)methylamino]propionate | 1.17 mmol, 430 mg | ClC1=C(C=CC=C1Cl)S(=O)(=O)CNCCC(=O)OC(C)(C)C | C14H19Cl2NO4S
reactant | trifluoroacetic acid | 2.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-[(2,3-Dichlorobenzenesulphonyl)methylamino]propionic acid | ClC1=C(C=CC=C1Cl)S(=O)(=O)CNCCC(=O)O | C10H11Cl2NO4S
